US09359329B2
A mixture of 1.5 g (8.74 mmol) of 6-chloro-N′-hydroxypyridine-3-carboximidamide and 1.13 mL (9.18 mmol) of trimethylacetyl chloride in 15 mL of toluene is stirred for 1 hour at room temperature and then refluxed for 4 hours. The medium is filtered. The insoluble material formed is dissolved in 15 mL of AcOH and then heated at 60° C. for 5 hours. After cooling to room temperature, the medium is concentrated under reduced pressure and then purified by chromatography on silica gel, eluting with a cyclohexane/EtOAc mixture (9/1). 0.39 g of 5-(5-tert-butyl-1,2,4-oxadiazol-3-yl)-2-chloropyridine is obtained in the form of a white solid.

reactant | 6-chloro-N′-hydroxypyridine-3-carboximidamide | 8.74 mmol, 1.5 g | ClC1=CC=C(C=N1)C(N)=NO | C6H6ClN3O
reactant | trimethylacetyl chloride | 9.18 mmol, 1.13 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | 5-(5-tert-butyl-1,2,4-oxadiazol-3-yl)-2-chloropyridine | 0.39 g, Yield=21% | C(C)(C)(C)C1=NC(=NO1)C=1C=CC(=NC1)Cl | C11H12ClN3O
